US06706751B2
In analogy to example 1.4, 6-Hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester and 1,5-dibromopentane (80%) were converted to yield 6-(5-Bromo-pentyloxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester as colorless oil, MS: 451 (M, 1Br, 1Cl).

reactant | 6-Hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)O | C16H14ClNO3
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
product | 6-(5-Bromo-pentyloxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCCBr | C21H23BrClNO3
